US05599847
The synthesis of the free base was carried out by the general procedure of J. J. Roberts and W. C. J. Ross (J. Chem. Soc., 1952, 4288). Diethylamine (3.285 g, 0.045 mol) was added during 15 min to a cooled solution (0° C.) of (E)-1,4-dibromobut-2-ene (1.07 g, 0.005 mol) (1) in benzene (5 ml). The product was diluted with chloroform (25 ml) and the organic layer was washed with water (4×25 ml). The chloroform layer was dried, filtered, and concentrated in vacuo to give (E)-N,N,N',N'-tetra-ethyl-1,4-diaminobut-2-ene as an oil (0.82 g, 82%). δH (90 MHz, CDCl3) 1.10 (12H, t), 2.60 (8H, q), 3.20 (4H, m) and 5.75 (2H, m).

reactant | Diethylamine | 0.045 mol, 3.285 g | C(C)NCC | C4H11N
reactant | (E)-1,4-dibromobut-2-ene | 0.005 mol, 1.07 g | BrC\C=C\CBr | C4H6Br2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | (E)-N,N,N',N'-tetra-ethyl-1,4-diaminobut-2-ene | 0.82 g, 82% | C(C)N(C\C=C\CN(CC)CC)CC | C12H26N2
